US05574042
To a solution of 3-bromo-8-(2,6-dichloro-3-methylaminobenzyloxy)-2-methylimidazo[1,2-a]pyridine (68 mg) and pyridine (0.5 ml) in dichloromethane (2 ml) was added 4-nitrophenyl chloroformate (40 mg) at ambient temperature. After stirring for 1 hour, the mixture was partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane twice. The organic layers were combined, washed with water twice and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from diethyl ether to give 3-bromo-8-[2,6-dichloro-3-[N-methyl-N-(4-nitrophenoxycarbonyl) amino]benzyloxy]-2-methylimidazo-[1,2-a]pyridine (84 mg) as crystals.

reactant | 3-bromo-8-(2,6-dichloro-3-methylaminobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 68 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)NC)Cl)C | C16H14BrCl2N3O
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 40 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-bromo-8-[2,6-dichloro-3-[N-methyl-N-(4-nitrophenoxycarbonyl) amino]benzyloxy]-2-methylimidazo-[1,2-a]pyridine | 84 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C)Cl)C | C23H17BrCl2N4O5
